US05665718
A solution of 200 mg (0.54 mmol) of 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 4 ml of N,N-dimethylformamide was treated with 0.17 ml (1.65 mmol) of diethylamine and stirred at room temperature under argon for 1.5 hrs. The solution was evaporated and the residue was triturated in 10 ml of water. The crystals were filtered off under suction, the filtrate was extracted once with ethyl acetate and the extract was evaporated. The combined crude products were chromatographed on 20 g of silica gel (methylene chloride/acetone 4:1, 2:1). There were obtained 124 mg of 8-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted in acetone with ethereal hydrochloric acid into the hydrochloride. By crystallization from acetonitrile there were obtained 108 mg (42%) of 8-chloro-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1.9) of m.p. 191°-205° (dec.).

reactant | 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.54 mmol, 200 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CCl)C)=O)C1 | C15H11Cl2N5O2
reactant | diethylamine | 1.65 mmol, 0.17 ml | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 124 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN(CC)CC)C)=O)C1 | C19H21ClN6O2
